US04000275
3-Trifluoromethylbenzimidazo[2,1-b]quinazolin-12(6H)one is prepared with 2-chlorobenzimidazole and 4-trifluoromethyl-anthranilic acid.

reactant | 2-chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | 4-trifluoromethyl-anthranilic acid | FC(C=1C=C(C(C(=O)O)=CC1)N)(F)F | C8H6F3NO2
product | 3-Trifluoromethylbenzimidazo[2,1-b]quinazolin-12(6H)one | FC(C1=CC=C2C(N3C(=NC2=C1)NC1=C3C=CC=C1)=O)(F)F | C15H8F3N3O
